US07470699B2
Preparation of 4-{2-[6-(4-Methanesulfonyl-phenylamino)-5-nitro-pyrimidin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (Compound A14)
4-(2-Hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (1.0 mmol, 230 μL) and sodium hydride (1.0 mmol, 26 mg) were dissolved in dimethyl acetamide (1.0 mL) and stirred for 30 minutes at room temperature. Then, (6-chloro-5-nitro-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine (0.21 mmol, 70 mg) was added. The reaction was stirred at 70° C. for 20 minutes. Its progress was monitored by thin layer chromatography and LCMS. Sodium hydride was quenched with water and the desired compound was extracted in ethyl acetate. Organic solvents were evaporated in vacuo. Flash chromatography (Silica gel 60; 40/60 EtoAc/Hexanes) provided Compound A14 as a yellow oil (90 mg, 82%). 1H NMR (400 MHz, CDCl3) δ (ppm): 10.26 (s, 1H), 8.40 (s, 1H), 7.98 (d, 2H), 7.86 (d, 2H), 4.51 (t, 2H), 4.09 (m, 2H), 3.73 (t, 2H), 3.07 (s, 3H), 2.72 (m, 2H), 1.76 (m,1H), 1.55 (q, 2H), 1.46 (s, 9H), 1.15 (m, 2H). LCMS (ESI), m/z 422.2 (M+H+, 100%).

reactant | 4-(2-Hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.0 mmol, 230 μL | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | sodium hydride | 1.0 mmol, 26 mg | [H-].[Na+]
reactant | (6-chloro-5-nitro-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine | 0.21 mmol, 70 mg | ClC1=C(C(=NC=N1)NC1=CC=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C11H9ClN4O4S
solvent | dimethyl acetamide | 1.0 mL | CC(=O)N(C)C | C4H9NO
product | 4-{2-[6-(4-Methanesulfonyl-phenylamino)-5-nitro-pyrimidin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 90 mg, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC=NC(=C1[N+](=O)[O-])NC1=CC=C(C=C1)S(=O)(=O)C | C23H31N5O7S
